US08133882B2
0.87 ml of triethylamine and 0.4 ml of isobutyl chloroformate were added to a 20 ml of dichloromethane solution of 1.0 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid at 0° C., followed by stirring at 0° C. for 30 minutes. Then, 315 mg of N,O-dimethylhydroxylamine hydrochloride was added thereto, followed by stirring at room temperature for 1 hour. Chloroform and aqueous saturated ammonium chloride were added to the reaction mixture, the layers were separated, and the organic layer was washed with aqueous saturated so iumchloride. After drying over anhydrous sodium sulfate and subsequent filtration, the solvent was evaporated under a reduced pressure. By purifying the resulting residue by silica gel column chromatography, 950 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-N-methoxy-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide was obtained.

reactant | isobutyl chloroformate | 0.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.0 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)O)=O)F | C21H25FN2O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 315 mg | Cl.CNOC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.87 ml | C(C)N(CC)CC | C6H15N
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-N-methoxy-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | 950 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)N(C)OC)=O)F | C23H30FN3O3
